US05096899
p-Nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxopentanoate
1.1 ml of 1M lithium bis(trimethylsilyl)amide are added over the course of 5 minutes to a stirred mixture of 275 mg (0.515 mmol) of p-nitrobenzyl 2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-acetate and 67 μl (0.55 mmol) of pivaloyl chloride in 6.7 ml of dry tetrahydrofuran at -70° C., and the reaction mixture is stirred at -70° C. for a further 30 minutes and then diluted with 40 ml of toluene and washed with 30 ml of 2N HCl, then twice with 40 ml of NaCl solution in each case. The organic phase is dried over MgSO4 and filtered, and the solvent is removed in vacuo. The residue is chromatographed over 10 g of silica gel using toluene:ethyl acetate (9:1), to give 268 g of a white, non-crystalline solid. IR spectrum in CH2Cl2 : 2930, 2850, 1775, 1760, 1720, 1610, 1535, 1350 cm-1 .

reactant | lithium bis(trimethylsilyl)amide | 1M, 1.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-nitrobenzyl 2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-acetate | 0.515 mmol, 275 mg | CSC1C(C(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H23N3O10S
reactant | pivaloyl chloride | 0.55 mmol, 67 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 6.7 ml | O1CCCC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxopentanoate | CC(C(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1SC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)(C)C | C28H31N3O11S
